US07691850B2
a) 10-Bromo-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-10-ol (2.8 g) in dry DMF (8 mL) was cooled in ice and phosphorus tribromide (0.7 mL) added drop-wise, and the mixture was stirred, with ice-cooling for 30 minutes then allowed to warm to room temperature and stirred for a further 2 hours. It was cooled in ice and sodium carbonate solution was added and the solid was collected, washed well with water, and dried in vacuo, to afford a pale yellow solid (1.65 g, 90%). LC/MS (ES) m/z 267.

reactant | 2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-10-ol | 2.8 g | O1CCOC=2C1=C1C(=CC=NC1=CC2)O | C11H9NO3
reactant | phosphorus tribromide | 0.7 mL | P(Br)(Br)Br | Br3P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 10-Bromo-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | 1.65 g, 90% | BrC1=CC=NC2=CC=C3C(=C12)OCCO3 | C11H8BrNO2
